US04288602
The effectiveness of Caro's acid as an oxidizing agent is unexpected. More explicitly, diphenyl sulfide has been oxidized by Caro's acid to give diphenyl sulfoxide in 39% yield by I. P. Gragerov and A. F. Levit, Zh. Obshch. Khim., 33, 543 (1963). Diphenyl sulfide is a typical aromatic sulfide. The starting material used in this invention also is an aromatic sulfide and would be expected to behave as a typical aromatic sulfide; however, it does not. Most aromatic sulfides can be oxidized in 70% dioxane in water to the corresponding sulfoxide with an equivalent amount of N-bromosuccinimide. On the other hand, the reaction of N-bromosuccinimide with alkyl sulfides gives no sulfoxides, W. Tagaki et al., Chemistry and Industry (London), September 19, 1964, p 1624. The starting sulfide used in this invention failed to be oxidized to the sulfinyl compound under similar conditions using N-bromosuccinimide. Thus, the lack of reactivity of 1,2-diphenyl-4-[2-(phenylthio)ethyl]-3,5-pyrazolidinedione, when compared to typical aromatic sulfides, would predict that oxidation of the starting sulfide used in this invention with Caro's acid should give very low yields of the corresponding sulfinyl compound. However, the reverse was discovered, Caro's acid is an effective and safe oxidizing agent for selectivity converting 1,2-diphenyl-4-[2-(phenylthio)ethyl]-3,5-pyrazolidinedione to the corresponding sulfinyl compound.

reactant | Caro's acid | OOS(=O)(=O)O | H2O5S
reactant | diphenyl sulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
product | diphenyl sulfoxide | 39% yield | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
